Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Ace Inhibitors
 
Attending: ___.
 
Chief Complaint:
Weakness and shortness of breath
 
Major Surgical or Invasive Procedure:
TEE
RHC/LHC

 
History of Present Illness:
___ with PMH severe AS s/p aortic valve replacement in ___, 
HTN, HLD, OSA, HFpEF, who presents with generalized weakness. 
The patient and his wife state his upper legs have felt quite 
weak over the last month, but within the last week he couldn't 
even get himself out of the chair. He is unable to lie flat due 
to shortness of breath, and so has been sleeping upright in a 
recliner. Denies PND. He is incredibly short of breath on 
minimal exertion. He also has had increased bilateral lower 
extremity edema and his wife states that his legs have felt 
quite cold lately. His appetite is decreased and he is sometimes 
light headed when walking. He endorses weight loss as well as a 
dry cough x2 months. He has also had diarrhea x2 days that is 
very dark in color. He had one episode of ___ but 
was able to make it to the toilet. Denies abdominal pain but has 
occasional episodes of nausea, no emesis. Denies fevers, chills, 
night sweats. He states he has not improved since his AVR in 
___. He denies CP, palpitations. His wife did not feel that 
the patient was safe at home (unable to ambulate, weak), and so 
she brought him to the hospital. Additionally, his wife feels 
that he recently slurs his words, and he says that he feels 
mentally cloudy lately. 

Of note, he was seen by his PCP ___ weeks ago and she increased 
his Lasix from 40mg daily to alternating doses of 40mg and 80mg 
every other day. 

ROS positive as per HPI.
ED vitals: AF, BP ___, HR ___, RR ___, SaO2 ___ 
RA
EKG atrial fibrillation, low voltage in limb leads, no ischemic 
changes
Labs/studies notable for: BNP > 5000, troponin 0.09, WBC 14.1,
INR 3, BUN/Cr ___, Na 123, K 5.1

CXR ___: Enlarged cardiac silhouette but unchanged from prior. 
Small right (increased from prior) and likely trace left pleural 
effusions. No pulmonary congestion
 
The patient was given: 40mg IV Lasix, warfarin 3.5mg  
 
 
Past Medical History:
1. CARDIAC RISK FACTORS  
- Hypertension  
- Dyslipidemia  
2. CARDIAC HISTORY  
- HFpEF
- Currently in atrial fibrillation, unclear if new, family 
history of prolonged QT syndrome  
3. OTHER PAST MEDICAL HISTORY 
- Aortic valve replacement ___
- Obesity
- OSA on CPAP
- Gout
- ADD
- H/O basal cell carcinoma
- H/O thyroid irradiation
- H/O mania
- H/O chemical gastritis
- H/O sessile serrated adenoma
 
Social History:
___
Family History:
-no hx of neurological do's including seizure or stroke
-mother: lung CA
-father: MI heart attack at ___ still alive
-Sister: HLD, obesity, breast cancer
-great grandaunt with stroke and heart attack also at ___
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
=======================================
VS: T 97.5 BP 115 / 72 HR 66 RR18 SaO2 98% RA
GENERAL: Well developed, morbidly obese male in NAD,  Oriented 
x3. Flat affect
HEENT: Dry mucus membranes. Pale skin. Normocephalic atraumatic. 
Sclera anicteric. PERRL. EOMI. Conjunctiva were pink. No pallor 
or cyanosis of the oral mucosa. No xanthelasma.  
NECK: Supple. JVP at angle of jaw while sitting 90 degrees  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. Regular rate and rhythm. Very distant heart sounds, soft 
diastolic murmur heard best at LUSB. 
LUNGS: No chest wall deformities or tenderness. Respiration 
isunlabored with no accessory muscle use. Mild expiratory 
wheezing at the bases
ABDOMEN: Soft, ___. No hepatomegaly. No 
splenomegaly.  +umbilical hernia
EXTREMITIES: Cool lower extremities, cold toes with bluish tips, 
pulses in tact, marked bilateral pitting edema to the knees, 
bilateral erythema. Hands with bilateral erythema as well. 

DISCHARGE PHYSICAL EXAM
=======================
 - VITALS: 98.2 PO ___ 18 ___ Ra 
 - I/Os: -1171 ___. +220cc ___.
 - WEIGHT:  120.2 <-- 125 kg <-  116.3 kg   
 - WEIGHT ON ADMISSION: 129 kg 
 - Previous Dry weight: 123.6 kg 
 
 GENERAL: lying in bed, comfortable, no increased work of
breathing
 HEENT: NCAT. Sclera anicteric. EOMI. Conjunctiva were pink, 
MMM,
OP clear  
 NECK: Supple, JVP ___ cm. Left neck with dressing that is dry.
 CARDIAC: RRR, normal S1, mechanical click on S2
 LUNGS: breathing comfortably on RA, CTAB
 ABDOMEN: Soft, NTND. +BS
 EXTREMITIES: 1+ b/l dependent edema, ___ warm and well perfused
 SKINL ___ tunneled dialysis catheter site clean without 
erythema, induration or drainage. 

 
Pertinent Results:
ADMISSION LABS:
====================
___ 01:30PM BLOOD ___ 
___ Plt ___
___ 01:30PM BLOOD ___ 
___ Im ___ 
___
___ 01:30PM BLOOD ___ ___
___ 07:50AM BLOOD ___ ___
___ 01:30PM BLOOD ___ 
___
___ 09:15PM BLOOD ___ LD(LDH)-533* 
___
___ 09:15PM BLOOD ___
___ 12:01AM BLOOD ___

PERTINENT LABS:
====================
  HEMATOLOGICcalTIBCHaptoFerritnTRF
___ 07:35  373 514*287

HEPATITISHBsAgHBsAbHBcAbHAV AbIgM HAV
___ 08:00  NEG NEGNEG         NEGNEG

HEPATITIS C SEROLOGYHCV Ab
___ 08:00                    NEG

AUTOANTIBODIESAMA       Smooth
___ 07:35  NEGATIVENEGATIVE

ADDED CHEM ___
IMMUNOLOGYANA
___ 07:35  NEGATIVE

ADDED CHEM ___
  PROTEIN AND IMMUNOELECTROPHORESISIgGIgAIgM
___ 09:10                                           
___  65

___
___ 09:10             81

Test                          ___              Reference 
Range/Units
COPPER                        151                 ___ mcg/dL
 
Test                          ___              Reference 
Range/Units
CERULOPLASMIN     41  H               ___ mg/dL

Test                                              ___         
     Reference Range/Units
___ QN        261  H              ___ mg/dL

DISCHARGE LABS:
====================

MICROBIOLOGY:
====================
Blood culture ___
                             STAPHYLOCOCCUS EPIDERMIDIS
                             |   
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------<=0.12 S
RIFAMPIN-------------- <=0.5 S
VANCOMYCIN------------ <=0.5 S

Blood culture ___
                             STAPHYLOCOCCUS EPIDERMIDIS
                             |   
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------<=0.12 S
OXACILLIN-------------   =>4 R
RIFAMPIN-------------- <=0.5 S
VANCOMYCIN------------     1 S

Urine culture ___
                             CITROBACTER ___
                             |   
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------    32 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

STUDIES/IMAGES:
====================
___ PA/LATERAL CXR: FINDINGS: 
There is a small right pleural effusion, increased in size since 
prior, and likely trace left pleural effusion as well.  Lungs 
are otherwise clear without edema or consolidation.  Cardiac 
silhouette is enlarged but similar compared to prior.  Median 
sternotomy wires and prosthetic valve are again noted.  No acute 
osseous abnormalities.
 
IMPRESSION: Small right and trace left pleural effusions.

___ TRANSTHORACIC ECHOCARDIOGRAM:
The left atrium is mildly dilated. The right atrium is 
moderately dilated. There is mild symmetric left ventricular 
hypertrophy. The left ventricular cavity size is normal. Due to 
suboptimal technical quality, a focal wall motion abnormality 
cannot be fully excluded. Overall left ventricular systolic 
function is normal (LVEF = 70%). Tissue Doppler imaging suggests 
an increased left ventricular filling pressure (PCWP>18mmHg). 
The right ventricular free wall is hypertrophied. The right 
ventricular cavity is moderately dilated with normal free wall 
contractility. [Intrinsic right ventricular systolic function is 
likely more depressed given the severity of tricuspid 
regurgitation.] The diameters of aorta at the sinus, ascending 
and arch levels are normal. A bileaflet aortic valve prosthesis 
is present. The transaortic gradient is normal for this 
prosthesis. Mild (1+) aortic regurgitation is seen. The mitral 
valve leaflets are mildly thickened. Moderate to severe (3+) 
mitral regurgitation is seen. The tricuspid valve leaflets are 
mildly thickened. Severe [4+] tricuspid regurgitation is seen. 
There is moderate pulmonary artery systolic hypertension. [In 
the setting of at least moderate to severe tricuspid 
regurgitation, the estimated pulmonary artery systolic pressure 
may be underestimated due to a very high right atrial pressure.] 
There is no pericardial effusion. 

Compared with the prior study (images reviewed) of ___, 
mitral regurgitation and tricuspid regurgitation are increased, 
but the technically suboptimal nature of both studies precludes 
definitive comparison. 
 
___ PORTABLE CXR:
IMPRESSION:  Comparison to ___.  Mild increase in 
severity of a ___ small right pleural effusion.  Newly 
occurred parenchymal opacity at the right lung bases, 
potentially suggestive of pneumonia in the appropriate clinical 
setting.  Stable moderate cardiomegaly.  Stable correct 
alignment of the sternal wires.

___ CT ABDOMEN/PELVIS:
IMPRESSION:
1. Nodular liver contour, likely representing cirrhosis.  There 
is no evidence of portal hypertension such as ascites or 
splenomegaly.
2. Aside from a millimetric hypodensity in the left lobe of the 
liver that is too small to characterize but likely represents a 
cyst, no focal liver lesion is identified.
3. Decompressed gallbladder containing a few small stones.  Mild 
pericholecystic fat stranding is likely reactive to adjacent 
liver disease.
4. Moderate nonhemorrhagic right pleural effusion with adjacent 
subsegmental atelectasis.

___ TRANSESOPHAGEAL ECHOCARDIOGRAM:
Difficult esophageal intubation requiring laryngoscopic guidance 
by anesthesia to pass the pediatric probe. No visual evidence of 
trauma during laryngoscopic evaluation, but evidence of 
pharyngeal trauma during intubation with mild bloody secretions 
on probe. No spontaneous echo contrast or thrombus is seen in 
the body of the left atrium or left atrial appendage. A 
mechanical aortic valve prosthesis is present (23mm ___ 
___ mechanical valve). The aortic valve prosthesis 
leaflets appear to move normally. No masses or vegetations are 
seen on the aortic valve. Aortic regurgitation seen is normal 
for the prosthesis. The mitral valve leaflets are mildly 
thickened. There is no mitral valve prolapse. No mass or 
vegetation is seen on the mitral valve. Moderate to severe (3+) 
mitral regurgitation is seen. There is no pericardial effusion. 

IMPRESSION: Suboptimal image quality (had to use pediatric probe 
because of difficulties with esophageal intubation). No valvular 
vegetations visualized. Moderate to severe mitral regurgitation. 
Well seated mechanical aortic valve replacement is present with 
normal leaflet motion. 

___ CT HEAD W/O CONTRAST:
COMPARISON:  MRI brain ___
FINDINGS: 
There is no evidence of acute large territory infarction, 
hemorrhage, edema, or mass effect.  Unchanged right dilated 
perivascular space in the lentiform nucleus.  There is 
periventricular and subcortical white matter hypodensity, which 
is nonspecific, but likely represents chronic microvascular 
ischemic changes.  The ventricles and sulci are prominent, 
consistent with involutional changes.  Incidentally noted 
calcifications of the bilateral carotid siphons. No osseous 
abnormalities seen. The paranasal sinuses, mastoid air cells, 
and middle ear cavities are clear. The orbits are unremarkable.
 
IMPRESSION: No acute intracranial abnormality.  Specifically, no 
evidence of intracranial hemorrhage.

___ EGD -
Normal mucosa with no varices
Erythema and petechiae in the body and fundus compatible with 
PHG
Otherwise normal EGD to third part of the duodenum

___ RHC:
RA 20, PA 65/24, PA MEAN 41, PCW 25, CI 1.99 (while on Dopamine)

___ CXR IMPRESSION
___ catheter is seen with tip projecting perhaps more 
laterally/distal
than the expected location of the interlobular pulmonary artery, 
however this
is likely exacerbated by patient rotation. Clinical correlation 
recommended. 
Repeat frontal radiograph could be confirmed if clinically 
warranted.
 
Apparent slight worsening of pulmonary edema and ___ 
pleural effusion
which may be exacerbated by patient positioning.

___ ECHO
The left atrium is moderately dilated. Left ventricular wall 
thicknesses and cavity size are normal. Regional left 
ventricular wall motion is normal. Left ventricular systolic 
function is hyperdynamic (biplane EF 82%). Right ventricular 
chamber size and free wall motion are normal. The ascending 
aorta is mildly dilated. A mechanical aortic valve prosthesis is 
present. The aortic valve prosthesis appears well seated, with 
normal disc motion and transvalvular gradients. Mild (1+) aortic 
regurgitation is seen. The mitral valve leaflets are 
structurally normal. No masses or vegetations are seen on the 
mitral valve, but cannot be fully excluded due to suboptimal 
image quality. Moderate (2+) mitral regurgitation is seen. A 
tricuspid valve annuloplasty ring is present. Moderate to severe 
[3+] tricuspid regurgitation is seen. There is moderate 
pulmonary artery systolic hypertension. [In the setting of at 
least moderate to severe tricuspid regurgitation, the estimated 
pulmonary artery systolic pressure may be underestimated due to 
a very high right atrial pressure.] There is a 
trivial/physiologic pericardial effusion. 

 IMPRESSION: Suboptimal image quality. Well seated, normal 
functioning mechanical aortic valve prosthesis with normal 
gradient and mild aortic regurgitation. Moderate mitral 
regurgitation. Moderate pulmonary artery systolic hypertension. 
Mildly dilated ascending aorta. 

 Compared with the prior study (images reviewed) of ___, 
the findings are similar. 

 If clinically indicated, a ___ TEE would be superior for 
assessment of the aortic valve and mitral valve morphology. 

 CLINICAL IMPLICATIONS: 
 Based on ___ AHA endocarditis prophylaxis recommendations, the 
echo findings indicate prophylaxis IS recommended. Clinical 
decisions regarding the need for prophylaxis should be based on 
clinical and echocardiographic data.  

___ ___
IMPRESSION:  
  
No evidence of deep venous thrombosis in the right or left lower 
extremity 
veins. 

___ RUQUS
IMPRESSION:  
  
1. The liver is coarsened and nodular in echotexture consistent 
with 
cirrhosis, but without concerning focal lesions. There is no 
evidence of 
portal venous thrombosis. 
2. Cholelithiasis without gallbladder wall thickening. 
3. Large ___ pleural effusion. 

___ ECHO
No atrial septal defect is seen by 2D or color Doppler. Overall 
left ventricular systolic function is normal (LVEF>55%). Right 
ventricular chamber size and free wall motion are normal. There 
are simple atheroma in the descending thoracic aorta. A 
mechanical aortic valve prosthesis is present. The aortic valve 
prosthesis appears to be partially dehisced with normal disc 
motion. A paravalvular jet of at least moderate aortic 
regurgitation located in right coronary cusp is seen. No masses 
or vegetations are seen on the aortic valve. The aortic 
regurgitation jet is eccentric. The mitral valve leaflets are 
mildly thickened. No mass or vegetation is seen on the mitral 
valve. Moderate to severe (3+) mitral regurgitation is seen. Due 
to the eccentric nature of the regurgitant jet, its severity may 
be significantly underestimated (Coanda effect). Moderate [2+] 
tricuspid regurgitation is seen. The tricuspid regurgitation jet 
is eccentric and may be underestimated. There is no pericardial 
effusion. 

 IMPRESSION: There is an evidence of partial dehiscence of 
aortic valve and at least moderate paravalvular regurgitation 
located in right aortic cusp. Moderate to severe mitral 
regurgitation. Moderate tricuspid regurgitation.

 Compared with the prior study (images reviewed) of ___ 
the jet of paravalvular aortic regurgitation has not been 
previosuly visualized.  

___ Line placement CXR
IMPRESSION:  
  
Compared to the earlier same day examination, there has been 
placement of a left internal jugular approach dual lumen 
catheter with tip terminating in the mid to lower SVC, 
satisfactory.  There is no associated pneumothorax.  No other 
interval changes seen. 

___
Tunneled dialysis line CXR

FINDINGS:  
Patent right internal jugular vein.  Final fluoroscopic image 
showing tunneled hemodialysis catheter with tip terminating in 
the right atrium. 
  
IMPRESSION:  
Successful placement of a  19 cm ___ length tunneled 
dialysis line.  The tip of the catheter terminates in the right 
atrium. The catheter is ready for use. 

================
Discharge labs
================
___ 04:52AM BLOOD ___ 
___ Plt ___
___ 04:42AM BLOOD ___ 
___ 
___
___ 04:52AM BLOOD ___ ___
___ 07:35AM BLOOD ___ ___
___ 07:00AM BLOOD ___ ___
___ 04:52AM BLOOD ___ 
___
___ 04:42AM BLOOD ___ LD(LDH)-332* ___ 
___
___ 04:52AM BLOOD ___
 
Brief Hospital Course:
===================
Medication Changes
===================

STOPPED Medications:
- Celecoxib 200 mg oral DAILY This medication was stopped 
because you developed kidney failure. 
- Colchicine 0.6 mg PO QHS This medication was stopped because 
you developed kidney and liver failure. 
- Ferrous Sulfate 325 mg PO BID This medication was stopped 
because it is no longer needed. 
- Furosemide 40 mg PO 3X/WEEK (___) This medication was 
stopped because you developed kidney failure. 
- Furosemide 80 mg PO 4X/WEEK (___) This medication was 
stopped because you developed kidney failure. 
- Multivitamins 1 TAB PO DAILY This medication was stopped it is 
being replaced with Nephrocaps 
- Potassium Chloride 20 mEq PO DAILY This medication was stopped 
because you developed kidney failure. 
- testosterone 1 % (50 mg/5 gram) transdermal apply as directed 
QOD This medication was stopped because you developed liver 
failure and have heart disease. 
- TraMADol 50 mg PO BID This medication was stopped because it 
is no longer needed.

NEW Medications:
----------------- 
- Amiodarone 200 mg PO DAILY This is a new medication to treat 
your atrial arrhythmia 
- Lactulose 20 mL PO Q8H titrate to 3 BM This is a new 
medication to treat your liver disease 
- Midodrine 15 mg PO TID This is a new medication to treat your 
low blood pressure 
- ___ 1 Appl TP PRN with all dressing 
changes This is a new medication to treat your wounds 
- Nephrocaps 1 CAP PO DAILY This is a new multivitamin 
- Pantoprazole 40 mg PO Q24H This is a new medication to treat 
your heartburn and prevent stomach ulcers 
- Rifaximin 550 mg PO BID This is a new medication to treat your 
liver disease 
- Sarna Lotion 1 Appl TP QID:PRN chest rash This is a new 
medication to treat your rash

CHANGED Medications:
--------------------
-Warfarin 4 mg PO ___ You were taking this medication at 
home but there has been a change in dose from 3.5mg to 4mg 

UNCHANGED Medications:
- Albuterol Inhaler ___ PUFF IH Q6H:PRN Wheeze You were taking 
this medication at home and you should continue it at the same 
dose (how much) and frequency (how often). 
- ARIPiprazole 4 mg PO DAILY You were taking this medication at 
home and you should continue it at the same dose (how much) and 
frequency (how often). 
- Aspirin EC 81 mg PO DAILY You were taking this medication at 
home and you should continue it at the same dose (how much) and 
frequency (how often).

HELD Medications:
-----------------
- Allopurinol ___ mg PO DAILY This medication was held. Do not 
restart Allopurinol until kidney function improves 
- ___ 20 mg PO DAILY This medication 
was held. Do not restart ___ until 
instructed to resume by physician 
- ___ 80 mg PO QPM This medication was held. Do not 
restart Atorvastatin until you are instructed to restart by 
hepatologist 
- Isosorbide Dinitrate 20 mg PO DAILY This medication was held. 
Do not restart Isosorbide Dinitrate until your blood pressure 
improves 
- Metoprolol Tartrate 12.5 mg PO BID This medication was held. 
Do not restart - Metoprolol Tartrate until your blood pressure 
improves 
- tadalafil ___ mg oral DAILY This medication was held. Do not 
restart tadalafil until your blood pressure improves 

====================
TRANSITIONAL ISSUES:
====================
[] Patient discharged to rehab for deconditioning
[] Discharged with tunneled HD line placed ___
[] Treated for presumed staph epi endocarditis in setting of 
staph epi baceteremia. Completed 6 weeks of IV vancomycin 
therapy on ___. Per ID, no further antibiotic treatment 
necessary. 
[] Continue to monitor for renal recovery. Anuric at discharge. 
If no recovery, will need to be considered for AV fistula vs 
graft
[] Will be discharged on ___ HD schedule. Got extra day of 
ultrafiltration prior to discharge with ___ removed each 
session. Please follow fluid status closely and determine need 
for additional ultrafiltration sessions as outpatient.
[] Not on any heart failure medications due to hypotension 
requiring midodrine. If blood pressure improves, please consider 
adding back medications pending renal function (ie. ACE, 
___, spironolactone). Would be preferred if he could 
wean off midodrine due to CHF.
[] Unclear dry weight. Still requiring fluid removal with 
ultrafiltration while here but likely approaching euvolemia.
[] Unclear cause for hypotension. Sepsis has resolved and off 
antibiotics. AM cortisol here was normal.
[] Started on Amiodarone while here for paroxysmal atrial 
fibrillation and atrial flutter. S/p Amiodarone loading dose and 
now on Amiodarone 200mg daily. Please consider other options for 
rhythm control including ablation. Could try rate control if BP 
improves.
[] New cirrhosis diagnosed here. Viral hepatitis serologies 
negative. Rheum and autoimmune workup negative. On lactulose and 
rifaximin started here for concern for hepatic encephalopathy. 
Mental status improved to baseline. Will have hepatology 
___ with Dr. ___.
[] Had supratherapeutic INR on admission, warfarin held but has 
been bridged back with heparin. Last 3 warfarin doses have been 
4mg and last 3 INR here were 1.5 -> 2.2 -> 2.5. Discharged on 
4mg daily. INR goal is 2.5 to 3.5 due to atrial flutter and 
prosthetic aortic valve based on latest AHA guidelines
[] Hepatitis B booster given here as HBsAb negative.
[] Has had hyperglycemia ranging from 102 to 185 while here. Hgb 
A1c checked here on ___ was 5.2%. Not discharged on any 
diabetic medications. Would ___ A1c as outpatient and 
consider starting medications. Appears to be diet controlled, 
not on meds as outpatient
[] Had GI bleed here in the setting of a supratherapeutic INR. 
resolved spontaneously. Had EGD on ___ which did not show 
source of bleed. Should have Colonoscopy as outpatient to 
evaluate for source.
[] Had 2 crowns fall out during this admission. Will need dental 
___ for this.
[] Given s/p treatment for presumed endocarditis and history of 
prosthetic aortic valve, will need prophylactic antibiotics 
prior to any dental procedures. Would ___ with ID as 
outpatient for further recommendations if needed.
[] Anemia to 8.1 at discharge, below baseline of ___. Had a GI 
bleed here requiring PRBC transfusions. Has been stable at 
___ with no further GI bleeding. Would ___ H&H at next 
PCP ___.
[] Has a leukocytosis at discharge to 10.5. Has had persistent 
leukocytosis ranging form ___ since ___, currently of unknown 
etiology. Had been as high as 24.8 during hospitalization in 
setting of staph epi bacteremia. Would ___ CBC at next PCP 
___.
[] BUN/Cr elevated to 37/5.8 at discharge in setting of acute 
renal failure requiring intermittent HD
[] Has hyponatremia and hypochloremia to 124 and 80 at discharge 
respectively, decreased from baselines of 130s and ___ 
respectively. Should be managed by HD but would ___ BMP at 
next visit.
[] Elevated phos to 6.9 at discharge in setting of renal 
failure. Should be managed via HD. Consider starting phosphate 
binding agents as outpatient if feel is necessary
[] Has anion gap acidosis to 22 at discharge likely in setting 
of renal failure. Would ___ BMP as above.
[] AST and Alk Phos elevated at discharge to 53 and 332 
respectively. These were stable over last few days prior to 
discharge. Likely elevated due to cholestatic disease in setting 
of sepsis. Please ___ LFTs at next PCP ___
[] LDH elevated to 332 at discharge, stable during admission. 
Also had elevated Tbili at times during admission, indirect bili 
predominant. Likely has some degree of hemolysis due to 
prosthetic aortic valve but should ___ as outpatient to 
ensure stability.
[] CRP elevated to 58.7 during hospitalization, likely in 
setting of acute infection.
[] Patient had OSA however refusing to use CPAP: elevated 
pulmonary pressures could be contributing to right heart 
failure. Consider require RHC once euvolemic and renal function 
recovers
[] Noticed to have Mobitz type I heart block based on several 
beats that are dropped after PR prolongation (albeit sometimes 
in 2:1 block so difficult to tell). Evaluated by EP felt to be 
either vagal or secondary to hypoxia. Would ___ ECG as 
outpatient to monitor this and continue to encourage CPAP use.
[] Allopurinol held at discharge. Consider restarting at 100mg 
daily (half the recommended dose) if develops gout as outpatient
[] Atorvastatin 80mg held at discharge given new cirrhosis 
diagnosis. Would ___ hepatology recommendations on if this 
can be restarted.
[] Please repeat INR on ___ and repeat CBC, chemistry, and 
INR at HD on ___.

# Code status: Full (confirmed)
# Patient contact: ___ 
 Relationship: WIFE 
 Phone: ___ 
 Other Phone: ___ 
# Discharge weight: 121 kg

 
Medications on Admission:
1. Albuterol Inhaler ___ PUFF IH Q6H:PRN Wheeze 
2. Allopurinol ___ mg PO DAILY 
3. ARIPiprazole 4 mg PO DAILY 
4. Atorvastatin 80 mg PO QPM 
5. Celecoxib 200 mg oral DAILY 
6. Colchicine 0.6 mg PO QHS 
7. ___ 20 mg PO DAILY 
8. Metoprolol Tartrate 12.5 mg PO BID 
9. Furosemide 40 mg PO 3X/WEEK (___) 
10. Furosemide 80 mg PO 4X/WEEK (___) 
11. Potassium Chloride 20 mEq PO DAILY 
12. tadalafil ___ mg oral DAILY 
13. TraMADol 50 mg PO BID 
14. Warfarin 3.5 mg PO DAILY16 
15. Aspirin EC 81 mg PO DAILY 
16. Ferrous Sulfate 325 mg PO BID 
17. Multivitamins 1 TAB PO DAILY 
18. Isosorbide Dinitrate 20 mg PO DAILY 
19. testosterone 1 % (50 mg/5 gram) transdermal apply as 
directed QOD  

 
Discharge Medications:
1.  Amiodarone 200 mg PO DAILY  
2.  Lactulose 20 mL PO Q8H titrate to 3 BM  
3.  Midodrine 15 mg PO TID  
4.  ___ 1 Appl TP PRN with all 
dressing changes  
5.  Nephrocaps 1 CAP PO DAILY  
6.  Pantoprazole 40 mg PO Q24H  
7.  Rifaximin 550 mg PO BID  
8.  Sarna Lotion 1 Appl TP QID:PRN chest rash  
9.  Warfarin 4 mg PO DAILY16  
10.  Albuterol Inhaler ___ PUFF IH Q6H:PRN Wheeze  
11.  ARIPiprazole 4 mg PO DAILY  
12.  Aspirin EC 81 mg PO DAILY  
13. HELD- Allopurinol ___ mg PO DAILY  This medication was held. 
Do not restart Allopurinol until  kidney function improves
14. HELD- ___ 20 mg PO DAILY  This 
medication was held. Do not restart 
___ until instructed to resume by 
physician
15. HELD- Atorvastatin 80 mg PO QPM  This medication was held. 
Do not restart Atorvastatin until you are instructed to restart 
by hepatologist
16. HELD- Isosorbide Dinitrate 20 mg PO DAILY  This medication 
was held. Do not restart Isosorbide Dinitrate until your blood 
pressure improves
17. HELD- Metoprolol Tartrate 12.5 mg PO BID  This medication 
was held. Do not restart Metoprolol Tartrate until your blood 
pressure improves
18. HELD- tadalafil ___ mg oral DAILY  This medication was 
held. Do not restart tadalafil until your blood pressure 
improves

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY:
================
Acute on chronic heart failure with preserved ejection fraction

SECONDARY:
================
Severe tricuspid regurgitation
Anemia
Acute kidney injury
Bacteremia
Urinary tract infection
Cirrhosis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ 
because you were feeling very weak and had difficulty breathing. 


What did we do while you were here?
===================================
- You were found to have a lot of extra fluid in your body, and 
so we treated you with an IV medication called Lasix to have you 
pee it out. 
- We also learned that you had blood in your stool, and so we 
started you on a medication to reduce stomach acid called 
Protonix.
- You were found to have an infection in your blood, as well as 
in your urine, and so we treated you with IV antibiotics. 
- You were treated in the cardiac intensive care unit after you 
a lot of blood in your stool and you became very drowsy - this 
was because your blood was too thin. 
- We measured the blood pressures in your heart - which showed 
that despite medications, your heart was not beating well enough 
for the rest of your body.  Because of this, you were 
transferred to the cardiac intensive care unit. 
- In the intensive care unit you received medication to help 
your heart beat
- We used a special ultrasound to look at your heart valves and 
found your aortic valve was very leaky, you were evaluated for 
surgery and eventually had a plug placed to stop the leak
- Your kidneys unfortunately stopped working correctly and you 
required dialysis to clean your blood. You had a catheter (large 
IV) placed in your right chest where you will hook up to the 
dialysis machine.
- You were given medications through your IV to help increase 
your blood pressure. These were eventually no longer needed and 
you were started on a medication called midodrine to increase 
your blood pressure.

What do you need to do when you go home?
========================================
  - It is very important that you take your midodrine to help 
keep your blood pressure up and amiodarone to help control your 
heart rhythm.
  - Please go to your scheduled appointment with your primary 
doctor, ___, and hemodialysis appointments.
  - Please go to hemodialysis on ___, and 
___
  - Weigh yourself everyday. If you gain more than 3 lbs, please 
call your doctor 
  - Please check your blood pressure everyday. If your blood 
pressure is lower than 85 over 55, please call your doctor.
  - If you have , please tell your primary doctor or go to the 
emergency room.

It was a pleasure taking care of you!
~ Your ___ team

 
Followup Instructions:
___